US07163937B2
Benzyl (1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-(prop-1-en-2-yl)cyclohexylcarbamate (4.8 g) in MeOH (40 mL) was charged with 10% Pd/C, Degussa (600 mg). The reaction flask was evacuated and then back-filled with hydrogen; this was repeated three more times. The reaction was stirred under 1 atm of H2 for 4 h and then filtered and concentrated to provide (1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-isopropylcyclohexanamine (2.9 g). MS (ES+)=272.3 (M+H)+.

reactant | Benzyl (1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-(prop-1-en-2-yl)cyclohexylcarbamate | 4.8 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]([C@H](CC1)NC(OCC1=CC=CC=C1)=O)C(=C)C | C23H37NO3Si
solvent | MeOH | 40 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (1S,2S,4R)-4-(tert-butyldimethylsilyloxy)-2-isopropylcyclohexanamine | 2.9 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]([C@H](CC1)N)C(C)C | C15H33NOSi
